US07705156B2
3-(6-Chloropyridin-3-yl)cyclopentanone (0.27 g, 1.4 mmol) was dissolved in CH2Cl2 (10 mL) and MeOH (1 mL) in a 100 mL round bottomed flask and treated with NaBH4 (0.05 g, 1.4 mmol) with stirring at room temperature. After 15 min. the reaction was diluted with water, the layers separated, the aqueous phase extracted with CH2Cl2, and the combined organic layers dried (Na2SO4), filtered and concentrated to give 3-(6-chloropyridin-3-yl)cyclopentanol (0.28 g, 100%) as an oily mixture of cis and trans isomers: LC/MS (ESI) m/z 197, 1H NMR (300 MHz, CDCl3) δ 8.27 (m, 2H), 7.65-7.48 (m, 2H), 7.26 (m, 2H), 4.52 (m, 2H), 3.49-2.99 (m, 2H), 2.51-2.01 (m, 4H), 1.99-1.40 m, 10H).

reactant | 3-(6-Chloropyridin-3-yl)cyclopentanone | 1.4 mmol, 0.27 g | ClC1=CC=C(C=N1)C1CC(CC1)=O | C10H10ClNO
reactant | MeOH | 1 mL | CO | CH4O
reactant | NaBH4 | 1.4 mmol, 0.05 g | [BH4-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(6-chloropyridin-3-yl)cyclopentanol | 0.28 g, 100% | ClC1=CC=C(C=N1)C1CC(CC1)O | C10H12ClNO
